US05420131
Methyl p-(2-quinolylmethoxy)phenylacetate
To a mixture of 2-(chloromethyl)quinoline hydrochloride (1 g, 4.6 mmol) and methyl p-hydroxyphenylacetate (0.83 g, 5 mmol) in anhydrous dimethylformamide (20 mL), was added potassium carbonate (2.33 g) and the mixture was heated at 60° C. for 8 h. Dimethylformamide was removed, and the residue was partitioned between water and chloroform. The organic phase was dried over sodium sulfate and the solvent was removed, to afford 1.68 g of a crude product that was purified by chromatography on silica gel (ethyl acetatehexane 1:1), to give 1.2 g of the title compound (yield: 84%).

reactant | 2-(chloromethyl)quinoline hydrochloride | 4.6 mmol, 1 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | methyl p-hydroxyphenylacetate | 5 mmol, 0.83 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 2.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl p-(2-quinolylmethoxy)phenylacetate | 1.2 g, yield: 84% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)OC | C19H17NO3
